US07169778B2
3. 6-(3,5-Dichloropyridin-4-yl)-8-methyl-2-[[4-(morpholin-4-yl)phenyl]amino]-8H-pteridin-7-one
A mixture of 0.30 g (1 mmol) of 5-amino-4-(methylamino)-2-[[4-(morpholin-4-yl)phenyl]amino]pyrimidine, 0.37 g (1.5 mmol) of ethyl 2-(3,5-dichloropyridin-4-yl)-2-oxoacetate, and 0.3 mL HOAc in 15 mL 2-methoxyethanol as heated under reflux for 16 hours, and worked up as above in 2. Chromatography on alumina, eluting with CH2Cl2/EtOAc (4:1), gives 85 mg (18%) of the title compound (Compound 12 in Tables 1 and 2): mp (MeOH) 243–245° C.

reactant | 5-amino-4-(methylamino)-2-[[4-(morpholin-4-yl)phenyl]amino]pyrimidine | 1 mmol, 0.30 g | NC=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CCOCC1)NC | C15H20N6O
reactant | ethyl 2-(3,5-dichloropyridin-4-yl)-2-oxoacetate | 1.5 mmol, 0.37 g | ClC=1C=NC=C(C1C(C(=O)OCC)=O)Cl | C9H7Cl2NO3
reactant | HOAc | 0.3 mL | CC(=O)O | C2H4O2
solvent | 2-methoxyethanol | 15 mL | COCCO | C3H8O2
product | 6-(3,5-Dichloropyridin-4-yl)-8-methyl-2-[[4-(morpholin-4-yl)phenyl]amino]-8H-pteridin-7-one | 85 mg, 18% | ClC=1C=NC=C(C1C1=NC=2C=NC(=NC2N(C1=O)C)NC1=CC=C(C=C1)N1CCOCC1)Cl | C22H19Cl2N7O2
